US08258130B2
2-Benzoyl-pyrimidine-5-carboxylic acid methyl ester (420 mg, 1.73 mmol) is dissolved in THF (5 mL), and a solution of LiOH (46 mg, 1.91 mmol) in water (5 mL) is added in one portion at 0° C. The mixture is stirred at 0° C. for 60 min. THF is evaporated in vacuo, and the residue is diluted with water (5 mL) and washed with ether (10 mL). The aqueous layer is acidified with 2 N aqueous HCl to pH ˜3. The resulting precipitate is collected by filtration, washed with water three times, and dried in vacuum oven overnight to afford 2-benzoyl-pyrimidine-5-carboxylic acid (260 mg, 66%). MS: 229 (M+H); 1H NMR (300 MHz, DMSO): δ 7.60 (m, 3H), 7.73 (m, 1H), 7.85 (m, 2H), 9.4 (s, 1H).

reactant | 2-Benzoyl-pyrimidine-5-carboxylic acid methyl ester | 1.73 mmol, 420 mg | COC(=O)C=1C=NC(=NC1)C(C1=CC=CC=C1)=O | C13H10N2O3
reactant | LiOH | 1.91 mmol, 46 mg | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-benzoyl-pyrimidine-5-carboxylic acid | 260 mg, 66% | C(C1=CC=CC=C1)(=O)C1=NC=C(C=N1)C(=O)O | C12H8N2O3
